US07968558B2
N-[2-(1,3-benzodioxol-5-yl)quinazolin-6-yl]acetamidine
A suspension in ethanol (80 ml) of 6-amino-2-(3,4-methylendi-oxy-phenyl)-quinazoline (5 g, 0.019 mol) and S-2-naphthylmethyl thioacetimidate bromidrate (5.63 g, 0.019 mol, prepared as described in Tetrahedron Letters 38, 179-182 (1997), was stirred at r.t. for 24 hrs. Then S-2-naphthylmethyl thioacetimidate bromidrate (2.8 g, 0.010 mol) was added and the mixture was stirred at r.t. for further 24 hrs., then was concentrated under reduced pressure. The residue was partitioned between ethyl acetate and water. The aqueous layer was basified with Na2CO3 and extracted with ethyl acetate. The product was extracted with aqueous HCl (0.001 N) for three times. The aqueous layers were collected, basified with Na2CO3 and extracted with ethyl acetate. The organic layer was washed with water and dried over Na2SO4, concentrated under reduced pressure, and then the residue was triturated with diethyl ether. The yellow solid was filtered and dried in vacuum to give the titled product (2.4 g, 42% yield).

reactant | 6-amino-2-(3,4-methylendi-oxy-phenyl)-quinazoline | 0.019 mol, 5 g | NC=1C=C2C=NC(=NC2=CC1)C1=CC2=C(C=C1)OCO2 | C15H11N3O2
reactant | S-2-naphthylmethyl thioacetimidate | C(C)(SCC1=CC2=CC=CC=C2C=C1)=N | C13H13NS
reactant | S-2-naphthylmethyl thioacetimidate | 0.010 mol, 2.8 g | C(C)(SCC1=CC2=CC=CC=C2C=C1)=N | C13H13NS
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | N-[2-(1,3-benzodioxol-5-yl)quinazolin-6-yl]acetamidine | 2.4 g, 42% yield | O1COC2=C1C=CC(=C2)C2=NC1=CC=C(C=C1C=N2)NC(C)=N | C17H14N4O2
